US08859768B2
To a mixture of N-(4-bromopyridin-2-yl)acetamide (17.2 g, 80 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (26.4 g, 104 mmol), Pd(dppf)Cl2 (11.7 g, 16 mmol) and KOAc (23.6 g, 240 mmol) under an atmosphere of nitrogen was added anhydrous DMF (1500 mL). The mixture was allowed to stir at 80° C. for 3.5 h. The solvent was removed and the residue was diluted with EtOAc (1000 mL). Activated carbon (100 g) was added. The slurry was heated at reflux for 5 min and then filtered. The organic solution was concentrated and the residue was recrystallized from EtOAc to give N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]acetamide (6.1 g, 29%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 10.47 (br s, 1H), 8.30-8.33 (m, 2H), 7.24 (dd, J=6.0, 1.2 Hz, 1H), 2.09 (s, 3H) and 1.29 (s, 12H).

reactant | N-(4-bromopyridin-2-yl)acetamide | 80 mmol, 17.2 g | BrC1=CC(=NC=C1)NC(C)=O | C7H7BrN2O
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 104 mmol, 26.4 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 240 mmol, 23.6 g | CC(=O)[O-].[K+]
catalyst | Pd(dppf)Cl2 | 16 mmol, 11.7 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMF | 1500 mL | CN(C)C=O | C3H7NO
product | N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]acetamide | 6.1 g, 29% | CC1(OB(OC1(C)C)C1=CC(=NC=C1)NC(C)=O)C | C13H19BN2O3
